US09427475B2
Step C: 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)hexanoic acid
To a solution of methyl 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)hexanoate (45 mg, 0.086 mmol) in water (10 mL) was added NaOH (0.086μL, 0.086 mmol, 1.0 M). After stirring for 16 hours, the reaction mixture was neutralized with 0.01 M HCl and the resulting solution was lyophilized to yield the title compound. UPLC Method B: m/e=512.2866 [M+1]; Rt=1.709 min.

reactant | methyl 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)hexanoate | 0.086 mmol, 45 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCN(CCCCCC(=O)OC)CCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C23H43NO12
reactant | NaOH | 0.086 mmol, 1.0 M, 0.086μL | [OH-].[Na+]
reactant | HCl | 0.01 M | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 6-(bis{2-[(α-L-fucopyranosyl)oxy]ethyl}amino)hexanoic acid | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCN(CCCCCC(=O)O)CCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C22H41NO12
